US06359145B1
Methyl 4-(3-methylphenyl)-2-oxobutyrate was prepared as a pale yellow oil from 3-iodotoluene and methyl 2-hydroxy-3-butenoate.

reactant | 3-iodotoluene | IC=1C=C(C=CC1)C | C7H7I
reactant | methyl 2-hydroxy-3-butenoate | OC(C(=O)OC)C=C | C5H8O3
product | Methyl 4-(3-methylphenyl)-2-oxobutyrate | CC=1C=C(C=CC1)CCC(C(=O)OC)=O | C12H14O3
